US07608723B2
Step 2. N1-Benzyl-4-methyl-benzene-1,2-diamine
To a solution of benzyl-(4-methyl-2-nitro-phenyl)-amine (300 mg, 1.24 mmol) in 5 mL acetic acid, was added iron (300 mg, 1.24 mmol). The reaction mixture was heated to 40° C. under argon for 2 h. The mixture was cooled to ambient temperature and filtered through celite and the filtrate was concentrated. The resulting solid was dissolved in ethyl acetate. The organic layer was washed with saturated NaHCO3, dried over MgSO4, filtered and the filtrate was concentrated in vacuo to yield crude product that was used in step 3.

reactant | benzyl-(4-methyl-2-nitro-phenyl)-amine | 1.24 mmol, 300 mg | C(C1=CC=CC=C1)NC1=C(C=C(C=C1)C)[N+](=O)[O-] | C14H14N2O2
solvent | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
catalyst | iron | 1.24 mmol, 300 mg | [Fe] | Fe
product | N1-Benzyl-4-methyl-benzene-1,2-diamine | C(C1=CC=CC=C1)NC=1C(=CC(=CC1)C)N | C14H16N2
